US05049669
n-Propylamine (3.3 cc) is added to a solution of -[(2RS)-1-(perhydro-1-azepinyl)-2-propyl]-2-phenothiazinecarbothioamide (3.2 g) in absolute ethanol (80 cc). The mixture is saturated with hydrogen sulphide and then brought to 150° C. for 16 hours. The reaction mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa). The residue is diluted with ethyl 5 acetate (150 cc), washed with distilled water (3×100 cc) and with saturated sodium chloride solution (100 cc), dried over magnesium sulphate and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) before being purified by chromatography on a column (height: 32 cm; diameter: 4 cm) of silica gel (0.06-0.2 mm), eluting with a 60:40 (by volume) mixture (1,000 cc) of cyclohexane and ethyl acetate, collecting 60-cc fractions. Fractions 3 to 11 are combined and concentrated to dryness at 50° C. under reduced pressure (30 mm Hg; 4 kPa) to give 10-[(2RS)-1-(perhydro-1-azepinyl)-2-propyl]-N-propyl-2-phenothiazinethiocarboxamide (2.5 g) in the form of a clear orange oil.

reactant | n-Propylamine | 3.3 cc | C(CC)N | C3H9N
reactant | [(2RS)-1-(perhydro-1-azepinyl)-2-propyl]-2-phenothiazinecarbothioamide | 3.2 g | N1(CCCCCC1)CC(C)C1=C(C=CC=2SC3=CC=CC=C3NC12)C(N)=S | C22H27N3S2
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 80 cc | C(C)O | C2H6O
product | 10-[(2RS)-1-(perhydro-1-azepinyl)-2-propyl]-N-propyl-2-phenothiazinethiocarboxamide | 2.5 g | N1(CCCCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=S | C25H33N3S2
